US06017922
6.7.2. STEP 1: TRIMETREXATE BASE, CRUDE
The reactor is charged with 41.5 L of n-butanol and 10.4 L of deionized water. 6.3 kg of crude trimetrexate acetate is then added. Then, 3 g of sodium metabisulfite, 0.65 L of ammonia, 1 kg of tonsil and 1 kg of Supercel are added.

reactant | n-butanol | 41.5 L | C(CCC)O | C4H10O
reactant | trimetrexate acetate | 6.3 kg | CC1=C(C=CC2=C1C(=NC(=N2)N)N)CNC3=CC(=C(C(=C3)OC)OC)OC.C(C)(=O)[O-]
reactant | sodium metabisulfite | 3 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ammonia | 0.65 L | N | H3N
solvent | water | 10.4 L | O | H2O
product | TRIMETREXATE | CC1=C(C=CC2=C1C(=NC(=N2)N)N)CNC3=CC(=C(C(=C3)OC)OC)OC | C19H23N5O3
